US07592373B2
4.17.a. N-[4-(2-diethylaminoethoxy)-3-nitrophenyl]acetamide
0.74 g (7.29 mmol) of potassium nitrate are added batchwise at −10° C. to a solution of 1.52 g (6.07 mmol) of N-[4-(2-diethylaminoethoxy)phenyl]acetamide in 25 mL of concentrated sulfuric acid and the mixture is stirred for 1 hour at −10° C. The reaction mixture is poured onto a mixture of ice and concentrated aqueous ammonia and the aqueous phase is exhaustively extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and evaporated down. Yield: 1.8 g (100% of theory); C14H21N3O4 (M=295.34); calc.: molecular ion peak (M+H)+: 296; found: molecular ion peak (M+H)+: 296; Rf value: 0.50 (Alox, dichloromethane/methanol (39:1)).

reactant | potassium nitrate | 7.29 mmol, 0.74 g | [N+](=O)([O-])[O-].[K+]
reactant | N-[4-(2-diethylaminoethoxy)phenyl]acetamide | 6.07 mmol, 1.52 g | C(C)N(CCOC1=CC=C(C=C1)NC(C)=O)CC | C14H22N2O2
reactant | ammonia | N | H3N
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
product | N-[4-(2-diethylaminoethoxy)-3-nitrophenyl]acetamide | C(C)N(CCOC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-])CC | C14H21N3O4
